### PR TITLE
Add a (work in progress) package on model categories / weak factorization systems

### PR DESCRIPTION
**Pull request by DenSinH**
This is still a bit of a work in progress. I am also not 100% sure it will compile yet in UniMath. Suggestions are welcome of course.

There is one lemma (and one lemma that depends on it) that depends on the axiom of choice, which has been admitted in the proof now, but this of course needs some work in the future.

I don't know why it also included the commits from my other PR...

### CODE REVIEW

File: UniMath/CategoryTheory/DisplayedCats/Examples/Arrow.v [hunk 1]
```diff
@@ -0,0 +1,63 @@
...
+    intros.
+    use homset_property.
+  - simpl. 
+    intros.
+    now rewrite id_left, id_right.
+  - simpl.
+    intros.
+    rewrite assoc, <- X.
+    symmetry.
+    now rewrite <- assoc, <- X0, assoc.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/DisplayedCats/Examples/Arrow.v:39]: It would be good to "hide" these proofs using an `abstract (...)` block.

File: UniMath/CategoryTheory/DisplayedCats/Examples/Three.v [hunk 2]
```diff
@@ -0,0 +1,127 @@
...
+    (* middle map of composite is composite of middle maps *)
+    exists (f0 · g0).
+    split.
+    * rewrite assoc, H0, <- assoc.
+      etrans. apply maponpaths.
+      exact K0.
+      now rewrite assoc.
+    * rewrite <- assoc, <- K1, assoc, assoc.
+      apply cancel_postcomposition.
+      exact H1.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/DisplayedCats/Examples/Three.v:63]: Can we make these proofs opaque?

File: UniMath/CategoryTheory/DisplayedCats/Examples/Three.v [hunk 3]
```diff
@@ -0,0 +1,127 @@
...
+    etrans. apply assoc.
+    destruct ff as [ff H].
+    apply pathsinv0.
+    etrans. use (pr1_transportf (A := x --> w)).
+    cbn; apply (eqtohomot (transportf_const _ _)).
+  - apply isaset_total2.
+    * apply homset_property.
+    * intro.
+      apply isasetdirprod; apply isasetaprop; apply homset_property.    
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/DisplayedCats/Examples/Three.v:108]:
```suggestion
Qed.
```

File: UniMath/CategoryTheory/ModelCategories/WeakEquivalences.v [hunk 4]
```diff
@@ -0,0 +1,47 @@
...
+Local Open Scope logic.
+
+Definition weq_of_iso_ax {M : category} (W : morphism_class M) :=
+    ∀ x y (i : x --> y) (h : is_iso i), (W _ _) i.
+Definition weq_comp_ax {M : category} (W : morphism_class M) :=
+    ∀ x y z (f : x --> y) (g : y --> z), (W _ _) f ⇒ (W _ _) g ⇒ (W _ _) (g ∘ f).
+Definition weq_cancel_left_ax {M : category} (W : morphism_class M) :=
+    ∀ {x y z} {f : x --> y} {g : y --> z}, (W _ _) f ⇒ (W _ _) (g ∘ f) ⇒ (W _ _) g.
+Definition weq_cancel_right_ax {M : category} (W : morphism_class M) :=
+    ∀ {x y z} {f : x --> y} {g : y --> z}, (W _ _) g ⇒ (W _ _) (g ∘ f) ⇒ (W _ _) f.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/ModelCategories/WeakEquivalences.v:19]:
```suggestion
    ∀ (x y z) (f : x --> y) (g : y --> z), (W _ _) g ⇒ (W _ _) (g ∘ f) ⇒ (W _ _) f.
```

Comment (benediktahrens) [reply UniMath/CategoryTheory/ModelCategories/WeakEquivalences.v:19]: Here and elsewhere, the `{...}` in universal quantifications should be replaced by `(...)`.

File: UniMath/CategoryTheory/ModelCategories/WeakEquivalences.v [hunk 5]
```diff
@@ -0,0 +1,47 @@
...
+Definition weq_cancel_left {M : category} (W : weak_equivalences M) := is_weq_cancel_left (weq_is_weq W).
+Definition weq_cancel_right {M : category} (W : weak_equivalences M) := is_weq_cancel_right (weq_is_weq W).
+
+Lemma isaprop_is_weak_equivalences {M : category} (W : morphism_class M) : isaprop (is_weak_equivalences W).
+Proof.
+  idtac; 
+    repeat apply isapropdirprod; 
+    do 4 (apply impred_isaprop; intro);
+    apply propproperty.
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/ModelCategories/WeakEquivalences.v:45]:
```suggestion
Qed.
```

File: UniMath/CategoryTheory/ModelCategories/WFS.v [hunk 6]
```diff
@@ -0,0 +1,770 @@
...
+Lemma isaprop_is_wfs {M : category} (L R : morphism_class M) : isaprop (is_wfs L R).
+Proof.
+  apply isapropdirprod.
+  - unfold isaprop.
+    exact (isasetmorphism_class _ _).
+  - apply isapropdirprod.
+    * exact (isasetmorphism_class _ _).
+    * do 3 (apply impred_isaprop; intro).
+      apply propproperty.
+Defined.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/ModelCategories/WFS.v:157]:
```suggestion
Qed.
```

**Comment by benediktahrens** [comment]
Thanks a lot for filing this PR. I have made a few small comments. 

Can you describe what the issue is with the admitted proof? You could add the axiom of choice as a hypothesis. Possibly we also have a suitable statement of AC in Foundations?

**Comment by Kfwullaert** [comment]
A general question: You have defined the arrow category, however, the definition of morphismclass does not make use of this. 
Why did you not define morphismclass as a subtype of the type of objects in the arrow category?

**Comment by DenSinH** [comment]
> A general question: You have defined the arrow category, however, the definition of morphismclass does not make use of this. Why did you not define morphismclass as a subtype of the type of objects in the arrow category?

This is something that I potentially wanted to change, it seems fitting here, but changing "normal morphisms in a category C" to "objects of arrow C" in some proofs mainly in WFS.v messed up a lot of things, but I am not sure why. Though in the case of the definition of a morphism class, I don't think I will run into problems, and I should and will definitely change it.

**Comment by DenSinH** [comment]
> Thanks a lot for filing this PR. I have made a few small comments.
> 
> Can you describe what the issue is with the admitted proof? You could add the axiom of choice as a hypothesis. Possibly we also have a suitable statement of AC in Foundations?

True yes, but possibly it might be better to change some other definitions so that we have the actual lifting data in a WFS, so that the axiom of choice is no longer an issue. I am already working further on an article by Garner, where he defines cofibrantly generated WNFSs. In this situation, the axiom of choice is no longer an issue, since we actually have the lifting data available. I guess I should still change it to pass the axiom of choice as a parameter, but the theorem itself might change, I am not sure yet...

**Comment by Kfwullaert** [comment]
> > Thanks a lot for filing this PR. I have made a few small comments.
> > Can you describe what the issue is with the admitted proof? You could add the axiom of choice as a hypothesis. Possibly we also have a suitable statement of AC in Foundations?
> 
> True yes, but possibly it might be better to change some other definitions so that we have the actual lifting data in a WFS, so that the axiom of choice is no longer an issue. I am already working further on an article by Garner, where he defines cofibrantly generated WNFSs. In this situation, the axiom of choice is no longer an issue, since we actually have the lifting data available. I guess I should still change it to pass the axiom of choice as a parameter, but the theorem itself might change, I am not sure yet...

If the lifting is data, don't you have an issue with the morphism classes?
Since fibrations are completely determined by the acyclic cofibrations in the sense that the fibrations as those morphisms with the right lifting property against the acyclic cofibrations. 
If you define lifting as a data, then you can no longer define the fibrations in this way because being a fibration is no longer a property.

**Comment by DenSinH** [comment]
> > > Thanks a lot for filing this PR. I have made a few small comments.
> > > Can you describe what the issue is with the admitted proof? You could add the axiom of choice as a hypothesis. Possibly we also have a suitable statement of AC in Foundations?
> > 
> > 
> > True yes, but possibly it might be better to change some other definitions so that we have the actual lifting data in a WFS, so that the axiom of choice is no longer an issue. I am already working further on an article by Garner, where he defines cofibrantly generated WNFSs. In this situation, the axiom of choice is no longer an issue, since we actually have the lifting data available. I guess I should still change it to pass the axiom of choice as a parameter, but the theorem itself might change, I am not sure yet...
> 
> If the lifting is data, don't you have an issue with the morphism classes? Since fibrations are completely determined by the acyclic cofibrations in the sense that the fibrations as those morphisms with the right lifting property against the acyclic cofibrations. If you define lifting as a data, then you can no longer define the fibrations in this way because being a fibration is no longer a property.

Yes, this was the main issue with defining it this way, the definition of morphism class would not suffice to do this. I guess perhaps a way to circumvent using the axiom of choice would be to pass a function that maps morphisms to their lifting data. I mainly just tried to keep the axiom of choice out of it.

**Comment by benediktahrens** [comment]
@DenSinH : do you have any questions about the suggestions made to this PR? Is anything unclear?

**Comment by DenSinH** [comment]
> @DenSinH : do you have any questions about the suggestions made to this PR? Is anything unclear?

Nope! Sorry just forgot to make the changes, I'll add them tomorrow!

**Comment by DenSinH** [comment]
I'm not sure how to fix this issue with the clashing notations...
